US07732435B2
3-(4-Chlorophenyl)-7-hydroxy-2-isopropyl-4-oxo-4H-chromene-8-carbaldehyde
A mixture of 3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-chromen-4-one (12.48 g, 39.6 mmol) and hexamethylenetetramine (39.46 g, 0.28 mol) in acetic acid (250 ml) is stirred at 100° C. for 20 h. After the mixture has cooled to room temperature, the solvent is removed in vacuo to afford a black oily residue. 5M HCl solution (150 ml) is added, and the mixture is heated under reflux for 30 min. The reaction mixture is poured onto ice/water, and the resulting brown solid is isolated by filtration. The solid is taken up in dichloromethane, the mixture is passed through a bed of Celite, and the solvent is evaporated in vacuo. The solid residue is stirred at room temperature with ethyl acetate, filtered and washed with hexane to afford the desired product as a pale brown solid.

reactant | 3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-chromen-4-one | 39.6 mmol, 12.48 g | ClC1=CC=C(C=C1)C1=C(OC2=CC(=CC=C2C1=O)O)C(C)C | C18H15ClO3
reactant | hexamethylenetetramine | 0.28 mol, 39.46 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | HCl | 5M, 150 ml | Cl | ClH
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-Chlorophenyl)-7-hydroxy-2-isopropyl-4-oxo-4H-chromene-8-carbaldehyde | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)O)C=O)C(C)C | C19H15ClO4
